US07893056B2
To a solution of racemic 1-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-N,N,2,2-tetramethyl-3-pyrrolidinamine pentahydrochloride (0.3649 g, 0.752 mmol) in DMF (5 mL) was added (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (0.2140 g, 0.701 mmol), N-methylmorpholine (0.770 mL, 7.00 mmol), 1-hydroxy-7-azabenzotriazole (114 mg, 0.838 mmol), and EDC (161 mg, 0.840 mmol). The solution was stirred overnight and purified directly by Gilson RPLC to provide [(2R)-3-(2-{2-chloro-6-[3-(dimethylamino)-2,2-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (0.1755 g, 42% yield, mixture of diastereomers) as a brown oil. LCMS: (M+H)+: 590.4.

reactant | racemic 1-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-N,N,2,2-tetramethyl-3-pyrrolidinamine pentahydrochloride | 0.752 mmol, 0.3649 g | Cl.Cl.Cl.Cl.Cl.ClC1=NC(=C(C(=N1)N1C(C(CC1)N(C)C)(C)C)F)NN
reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 0.701 mmol, 0.2140 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | N-methylmorpholine | 7.00 mmol, 0.770 mL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxy-7-azabenzotriazole | 0.838 mmol, 114 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 0.840 mmol, 161 mg
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [(2R)-3-(2-{2-chloro-6-[3-(dimethylamino)-2,2-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.1755 g, 42% yield | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)N1C(C(CC1)N(C)C)(C)C | C29H41ClFN7O3
